### PR TITLE
feat: BitVec normalization rule for udiv by twoPow

### PR DESCRIPTION
**Pull request by bollu**
This PR adds a normalization rule to `bv_normalize` (which is used by `bv_decide`) that converts `x / 2^k` into `x >>> k` under suitable conditions. This allows us to simplify the expensive division circuits that are used for bitblasting into much cheaper shifting circuits. Concretely, it allows for the following canonicalization:

```lean
example {x : BitVec 16} : x / (BitVec.twoPow 16 2) = x >>> 2 := by bv_normalize
example {x : BitVec 16} : x / (BitVec.ofNat 16 8) = x >>> 3 := by bv_normalize
```

### CODE REVIEW

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 1]
```diff
@@ -304,5 +304,11 @@ attribute [bv_normalize] BitVec.umod_zero
 attribute [bv_normalize] BitVec.umod_one
 attribute [bv_normalize] BitVec.umod_eq_and
 
+/-- `x / (BitVec.ofNat n)` where `n = 2^k` is the same as shifting `x` right by `k`. -/
+theorem BitVec.udiv_ofNat_eq_of_lt (w : Nat) (x : BitVec w) (n : Nat) (k : Nat) (hk : 2 ^ k = n) (hlt : k < w) :
+  x / (BitVec.ofNat w n) = x >>> k := by
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:309]: Indentation.

File: src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize.lean [hunk 2]
```diff
@@ -129,6 +129,36 @@ builtin_simproc [bv_normalize] bv_add_const' (((_ : BitVec _) + (_ : BitVec _))
 
 attribute [builtin_bv_normalize_proc↓] reduceIte
 
+/-- Return a number `k` such that `2^k = n`. Uses fast kernel and compiler primitives. -/
```
Comment (hargoniX) [inline src/Lean/Elab/Tactic/BVDecide/Frontend/Normalize.lean:132]: The remark about kernel primitives doesn't really matter here does it?

**Review by hargoniX — CHANGES_REQUESTED** [review]
The `This PR` part of your PR will be included within the release notes. Please do make clear that this change affects `bv_decide` and not the general `simp`.

**Review by hargoniX — APPROVED** [review]
